US04229443
A. 9-Carbomethoxy-3-azaspiro[5.5]undecane-2,4-dione
A mixture of 4-carbomethoxycyclohexane-1,1-diacetic acid anhydride and concentrated aqueous ammonia solution was slowly heated with a free flame until the temperature reached 200° C. where it was kept for 1 hour. After cooling the product was ued in the next step without purification.

reactant | 4-carbomethoxycyclohexane-1,1-diacetic acid anhydride | C(=O)(OC)C1CCC2(CC1)CC(=O)OC(C2)=O | C12H16O5
reactant | ammonia | N | H3N
product | 9-Carbomethoxy-3-azaspiro[5.5]undecane-2,4-dione | C(=O)(OC)C1CCC2(CC(NC(C2)=O)=O)CC1 | C12H17NO4
